US04853389
Step (1) Preparation of 2-Amino-N-(1,1-dimethylethyl)-4-[(3-methylphenyl)amino]-5-pyrimidinesulfonamide
To a mixture of 4-chloro-2-[[(dimethylamino)methylene]amino]-N-(1,1-dimethylethyl)-5-pyrimidinesulfonamide, prepared according to the process of Example 1, Step 6 (44.62 g, 0.139 mol) in EtOH (1800 mL) was added metatoluidine (59.8 g, 0.558 mol) and heated to reflux for 10 hours. After cooling, the solvent was removed in vacuo and the residue extracted into EtOAc (1 liter). The solution was twice washed with 1N HCl, washed with water and then with saturated NaCl. The organics were dried over MgSO4 and evaporated in vacuo to give a colorless solid, m.p. 174°-178° C. in 85% yield. Used without further purification.

reactant | 4-chloro-2-[[(dimethylamino)methylene]amino]-N-(1,1-dimethylethyl)-5-pyrimidinesulfonamide | ClC1=NC(=NC=C1S(=O)(=O)NC(C)(C)C)N=CN(C)C | C11H18ClN5O2S
reactant | metatoluidine | 0.558 mol, 59.8 g | NC1=CC(=CC=C1)C | C7H9N
solvent | EtOH | 1800 mL | CCO | C2H6O
product | 2-Amino-N-(1,1-dimethylethyl)-4-[(3-methylphenyl)amino]-5-pyrimidinesulfonamide | 85% yield | NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)S(=O)(=O)NC(C)(C)C | C15H21N5O2S
